US08604019B2
Step 1. Preparation of Benzyl 3-{[2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthienopyrimidin-4-yl]amino}-pyrrolidine-1-carboxylate
The title compound was prepared in analogy to Example 3-1 in Scheme 3 by using 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one and benzyl-3-amino-1-pyrrolidinecarboxylate. MS obsd. (ESI+) [(M+H)+] 548.

reactant | 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one | O=S1CCN(CC2=C1C=CC=C2)C=2NC(C1=C(N2)C=C(S1)C)=O | C16H15N3O2S2
reactant | benzyl-3-amino-1-pyrrolidinecarboxylate | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)N | C12H16N2O2
product | Benzyl 3-{[2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthienopyrimidin-4-yl]amino}-pyrrolidine-1-carboxylate | O=S1CCN(CC2=C1C=CC=C2)C2=NC1=C(C(=N2)NC2CN(CC2)C(=O)OCC2=CC=CC=C2)SC(=C1)C | C28H29N5O3S2
